US08492378B2
6-(5-methyl-1,3,4-oxadiazol-2-yl)-1-[1-(methylsulfonyl)piperidin-4-yl]-1H-benzimidazole
To a solution of 6-(5-methyl-1,3,4-oxadiazol-2-yl)-1-(4-piperidinyl)-1H-benzimidazole (0.25 g, 0.88 mmol) and triethylamine (0.24 mL, 1.76 mmol) in tetrahydrofuran (5 mL) was added methanesulfonyl chloride (0.10 mL, 1.32 mmol) at 0° C., and the resulting mixture was stirred at room temperature for 1 hr. The reaction solution was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate/methanol=1/0-19/1) and recrystallized from diethyl ether/methanol to give the title compound (0.19 g, yield 60%) as colorless crystals.

reactant | 6-(5-methyl-1,3,4-oxadiazol-2-yl)-1-(4-piperidinyl)-1H-benzimidazole | 0.88 mmol, 0.25 g | CC1=NN=C(O1)C=1C=CC2=C(N(C=N2)C2CCNCC2)C1 | C15H17N5O
reactant | triethylamine | 1.76 mmol, 0.24 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.32 mmol, 0.10 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 6-(5-methyl-1,3,4-oxadiazol-2-yl)-1-[1-(methylsulfonyl)piperidin-4-yl]-1H-benzimidazole | 0.19 g, yield 60% | CC1=NN=C(O1)C=1C=CC2=C(N(C=N2)C2CCN(CC2)S(=O)(=O)C)C1 | C16H19N5O3S
